US07276516B2
Add trifluoroacetic acid (2 mL) to [1-(4-fluoro-phenyl)-azetidin-3-ylmethyl]-carbamic acid tert-butyl ester (135 mg, 0.482 mmol) causing much gas evolution. Rotary evaporate the reaction solution (40° C.; azeotroping 3× with CH2Cl2). Dissolve this material in anhydr CH2Cl2 (3 mL). Add 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid (200 mg, 0.53 mmol, 1.1 equiv), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC; 140 mg, 0.73 mmol, 1.5 equiv), and 4-(dimethylamino)pyridine (DMAP; 270 mg, 2.3 mmol, 4.7 equiv). After stirring 16 h, transfer the reaction solution to a column of silica gel (80 mm×20 mm dia.) and elute (10-45% EtOAc/hex) to yield 31 mg (12%) of N-[1-(4-fluoro-phenyl)-azetidin-3-ylmethyl]-4-(3-phenyl-indole-1-sulfonyl)-benzamide as a light-yellow foam. MS (m/e): 539.99 (M+1); 538.16 (M−1).

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [1-(4-fluoro-phenyl)-azetidin-3-ylmethyl]-carbamic acid tert-butyl ester | 0.482 mmol, 135 mg | C(C)(C)(C)OC(NCC1CN(C1)C1=CC=C(C=C1)F)=O | C15H21FN2O2
reactant | 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid | 0.53 mmol, 200 mg, 1.1 equiv | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.73 mmol, 140 mg, 1.5 equiv | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 2.3 mmol, 270 mg, 4.7 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[1-(4-fluoro-phenyl)-azetidin-3-ylmethyl]-4-(3-phenyl-indole-1-sulfonyl)-benzamide | 31 mg, 12% | FC1=CC=C(C=C1)N1CC(C1)CNC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1)=O | C31H26FN3O3S
